US07491743B2
A suspension of (7-fluoro-1H-indol-3-ylmethyl)-dimethyl-amine (550 mg, 0.0028 mol.), 2-formylamino-malonic acid diethyl ester (640 mg, 0.0031 mol.), and NaOH (30 mg) in toluene (20 mL) under argon was refluxed for 3 days. The reaction mixture was concentrated and purified by column chromatography on silica gel using 40% ethyl acetate-hexane to give 2-(7-Fluoro-1H-indol-3-ylmethyl)-2-formylamino-malonic acid diethyl ester (1.0 gm, 99%): mp 164-166° C., 1H NMR (500 MHz, CDCl3): 1.28 (t, J=7.5 Hz, 6H), 3.87 (s, 2H), 4.17-4.31 (m, 4H), 6.80 (s, 1H), 6.86-6.86 (dd, J=8.0 and 8.0 Hz, 1H), 6.97-7.01 (m, 2H), 7.27 (s, 1H), 8.18 (d, J=1.5 Hz, 1H), 8.27 (s, 1H).

reactant | (7-fluoro-1H-indol-3-ylmethyl)-dimethyl-amine | 0.0028 mol, 550 mg | FC=1C=CC=C2C(=CNC12)CN(C)C | C11H13FN2
reactant | 2-formylamino-malonic acid diethyl ester | 0.0031 mol, 640 mg | C(C)OC(C(C(=O)OCC)NC=O)=O | C8H13NO5
reactant | NaOH | 30 mg | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(7-Fluoro-1H-indol-3-ylmethyl)-2-formylamino-malonic acid diethyl ester | 1.0 gm, 99% | C(C)OC(C(C(=O)OCC)(NC=O)CC1=CNC2=C(C=CC=C12)F)=O | C17H19FN2O5
